data/oMe_Silver.jsonl
{"reaction_id": "NR-052_1-C(C)(C)C_2-c1ccccc1_3-C(F)(F)F","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(C(C)(C)C)(c1ccccc1)(C(F)(F)F)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(C(C)(C)C)(c1ccccc1)(C(F)(F)F)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(C)(C)C)(c1ccccc1)(C(F)(F)F)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
{"reaction_id": "NR-213_1-c2ccc([N+](=O)[O-])cc2_2-CO[Si](C)(C)C(C)(C)C_3-Cl_4-c2cccc(F)c2","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccc([N+](=O)[O-])cc2)","C(CO[Si](C)(C)C(C)(C)C)=C(Cl)(c2cccc(F)c2)"],"products_smiles": ["C(CO[Si](C)(C)C(C)(C)C)1OC1(Cl)(c2cccc(F)c2)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(CO[Si](C)(C)C(C)(C)C)1OC1(Cl)(c2cccc(F)c2)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
